US04723016
The procedure of Example 1 was followed using phenyl benzoate (3.96 g, 20 mmol), potassium trimethylsilanolate (2.56 g, 20 mmol), dry tetrahydrofuran (50 mL), and a 5 h reaction time. Potassium benzoate (2.37 g, 74% yield) was isolated as a white solid: 1H NMR (D2O, DSS, 80 MHz) δ 7.4-8.0 (m, Ar--H's, 5H). Anal. Calcd. for C7H5KO2 : C, 52.48; H, 3.15; K, 24.41, Found: C, 50.28, 50.15, 52.45; H, 3.28, 3.36, 3.24; K, 24.80.

reactant | phenyl benzoate | 20 mmol, 3.96 g | C(C1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C13H10O2
reactant | potassium trimethylsilanolate | 20 mmol, 2.56 g | C[Si]([O-])(C)C.[K+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Potassium benzoate | 2.37 g, 74% yield | C(C1=CC=CC=C1)(=O)[O-].[K+] | InChI=1S/C7H6O2.K/c8-7(9)6-4-2-1-3-5-6;/h1-5H,(H,8,9);/q;+1/p-1
